Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Amitriptyline / Norvasc
 
Attending: ___.
 
Chief Complaint:
Hypotension.
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
___ PMH CAD, AFIB, DM2, recent LLL PNA p/w hypotension. The 
patient's caretaker took his blood pressure the day of admission 
and noted a systolic in the ___ the patient states he was 
asymptomatic. He denies any localizing signs or symptoms of 
infection other than one loose stool the day of admission. 
Denies chest pain, shortness of breath. Denies melena, 
hematochezia, or other bleeding. Of note, the patient was 
recently admitted ___ with LLL pneumonia and 
discharged on cefpodoxime. During this admission he was noted to 
be in atrial fibrillation with rapid ventricular rate and 
subsuquently his dose of diltiazem was doubled.  
.  
In the ED, initial VS 97.5 83/53 85 18 98%RA. BP improved to 
systolic 110s after 1L NS. Bedside US negative. EKG NSR rate 52, 
no ischemic changes. Chest x-ray showed infiltrate at the left 
lung base suggestive of infection. CT head performed for recent 
fall from seated position. The patient was given levaquin 750 mg 
IV, flagyl 500 mg PO, and 2L NS.  
.  
The patient has no complaints on arrival to the floor.  
.  
REVIEW OF SYSTEMS: Denies fever, chills, night sweats, headache, 
vision changes, rhinorrhea, congestion, sore throat, cough, 
shortness of breath, chest pain, abdominal pain, nausea, 
vomiting, dysuria, hematuria.
 
Past Medical History:
# CAD s/p PCI x 2 with a history of MI and angioplasty ___ years 
ago. His most recent cardiac catheterization was in ___ at ___ which revealed non-flow 
limiting three-vessel disease and no intervention was performed 
at that time  
# Atrial flutter/atrial tachycardia status post ablation in 
___ with breakthrough atrial tachycardia and atrial 
flutter  
# DM type II c/b neuropathy  
# PVD followed by Dr. ___  
# Colon Ca -- s/p partial colectomy ___, no radiation or 
chemotherapy  
# Neuropathy -- progressing to R arm now; legs unchanged, uses 
wheelchair  
# Spinal stenosis -- MRI performed ___, no emergent issues, 
but  
some retrolisthesis of L4-5  
# Concern for alcohol abuse  
 
Social History:
___
Family History:
No history of premature cardiac disease. Both parents died at ___ 
of "old age."
 
Physical Exam:
VS: 98.1 122/70 80 20  95% RA
. 
GEN: Middle-aged man in NAD, awake, alert  
HEENT: EOMI, PERRL, sclera anicteric, conjunctivae clear, OP 
moist and without lesion  
NECK: Supple, JVD to jaw  
CV: RRR, normal S1, S2, no m/r/g  
CHEST: Crackles ___ both lungs b/l  
ABD: Soft, NT, ND, no HSM  
EXT: No c/c/e  
SKIN: No rash
 
Pertinent Results:
On Admission:
___ 08:15PM   WBC-9.4 RBC-3.55* HGB-10.2* HCT-30.0* MCV-84 
MCH-28.7 MCHC-34.0 RDW-16.8*
___ 08:15PM   NEUTS-57.4 ___ MONOS-8.1 EOS-1.9 
BASOS-0.4
___ 08:15PM   PLT COUNT-490*
___ 08:15PM   ___ PTT-28.2 ___
___ 08:15PM   GLUCOSE-73 UREA N-13 CREAT-0.7 SODIUM-135 
POTASSIUM-4.2 CHLORIDE-99 TOTAL CO2-22 ANION GAP-18
___ 08:15PM   CALCIUM-9.2 PHOSPHATE-3.7 MAGNESIUM-1.8
___ 08:15PM   CK-MB-NotDone
___ 08:15PM   cTropnT-<0.01
___ 08:15PM   CK(CPK)-49
___ 08:28PM   LACTATE-3.0*
___ 09:51PM   LACTATE-2.9*
.
CXR ___: Bibasal effusions with an infiltrate at the left 
lung base suggestive of infection. Please ensure followup to 
clearance.
.
CT head ___:
There is no intracranial hemorrhage, shift of normally midline 
structures, or evidence of acute major vascular territorial 
infarction. Moderate periventricular and subcortical white 
matter hypodensities consistent with chronic small vessel 
ischemic changes. Moderate prominence of ventricles and sulci is 
unchanged. There is no fracture. Mild bilateral maxillary sinus 
and ethmoid air cell mucosal thickening is noted. The mastoid 
air cells are well aerated. 
IMPRESSION: No intracranial hemorrhage or fracture.

 
Brief Hospital Course:
___ PMH CAD, AFIB, DM2, recent LLL PNA p/w hypotension.  
.  
# Hypotension: Resolved upon admission to the floor after fluids 
and holding medication. The most likely cause was diltiazem and 
metoprolol doses. His medications were held and progressively 
re-started. Patient was discharged on metoprolol 100 mg PO QID.
.  
# Relative hypoxia: Patient comfortable on room air upon arrival 
to the floor. Unclear etiology, but most likely due to 
hypotension and poor flow. 
.
# Pneumonia: Patient with community acquired pneumonia 2 weeks 
ago and now comes with alveolar infiltrates on chest x-ray, but 
asymptomatic. There is no fever, chills, rigors, cough, 
shortness of breath. He will need CXR follow up in ~4 weeks as 
outpatient to document clear lungs and rule out masses.
.  
# Chronic diastolic heart failure: Stable throughout 
hospitalizaiton.
.  
# Alcohol abuse: No history of withdrawal seizures or DT. Last 
drink the day of admission. Pt was put on valium CIWA scale, but 
had no requirements.
.  
# Anemia: Baseline high-20s. Normocytic, iron deficient on prior 
admission. No signs or symptoms of bleeding.  
.  
# Atrial fibrillation: Not rate controlled adequately. 
Increasing one single agent to max: metoprolol 400 mg Daily (100 
QID). Can start diltiazem if not rate controlled.  
.  
# Coronary artery disease: No EKG changes, negative enzymes. 
Continued aspirin, plavix, statin.
.  
# Type 2 diabetes: On ISS.
.  
# Tobacco abuse: Pre-contemplative. He was on Nicotine patch 
while in the hospital, but had no interest in stopping smoking. 
Large conversations to encourage quit smoking were held 
throughout hospitalization.
.  
# FEN: Diabetic/cardiac - nectar prethickened liquids previous 
admission.
.
# DVT prophylaxis: Heparin SC.
.
# Code: DNR but okay to intubated per patient wishes
.
# Disposition: Home.
 
Medications on Admission:
Aspirin 325 mg PO DAILY  
Clopidogrel 75 mg PO DAILY  
Atorvastatin 40 mg PO DAILY  
Gabapentin 300 mg PO TID  
Folic Acid 1 mg PO DAILY  
Multivitamin Tablet PO DAILY  
Ferrous Sulfate 325 mg PO DAILY  
Furosemide 20 mg PO DAILY  
Diltiazem HCl 240 mg PO DAILY  
Metoprolol Succinate 100 mg PO DAILY  
Duloxetine 30 mg PO DAILY  
Thiamine HCl 100 mg PO DAILY  
Ipratropium Bromide two puffs INH Q6H:PRN SOB or wheezing  
Lantus 25 units SC QAM  
Novolog sliding scale  
Cefpodoxime 200 mg PO Q12H - completed ___
 
Discharge Medications:
1. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
2. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. Atorvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. Gabapentin 300 mg Capsule Sig: One (1) Capsule PO Q8H (every 
8 hours).  
5. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

6. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
7. Ferrous Sulfate 325 mg (65 mg Iron) Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
8. Duloxetine 30 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
9. Thiamine HCl 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
10. Ipratropium Bromide 0.02 % Solution Sig: One (1) Neb 
Inhalation Q6H (every 6 hours) as needed for SOB, wheeze.  
11. Insulin
Please resume your insulin as before.

12. Metoprolol Tartrate 100 mg Tablet Sig: One (1) Tablet PO 
four times a day.
Disp:*120 Tablet(s)* Refills:*2*
13. Lasix 20 mg Tablet Sig: One (1) Tablet PO once a day.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
Atrial Flutter with hypotension

Secondary Diagnosis:
Alcohol abuse
Coronary artery disease
Diabetes Mellitus
Peripheral vascular disease
Diabetic neuropathy

 
Discharge Condition:
Stable, tolerating diet, stable blood pressure and heart rate 
controlled.

 
Discharge Instructions:
You were seen at the ___ for low blood pressure. You received 
fluids and your blood pressure improved. Your heart rate was 
slower than normal, which can be explained by the medications 
you are taking for your atrial flutter. You had serial ECGs and 
blood tests (cardiac enzymes) that ruled out the possibility of 
a heart attack. Your diltiazem was stopped and once your blood 
pressure was better your medications for your atrial Flutter 
were slowly increased.

If you keep drinking, most likely this episodes of rapid heart 
beats will be repeated and will only be controlled with very 
high doses of medications that can affect your blood pressure. 
We repeatedly encouraged you to quit drinking alcohol throughout 
the hospitalization. We kept you on a tight observation to make 
sure you did not withdraw.

You also had infiltrates in your lungs, which most likely are 
due to the pneumonia you had a couple of weeks ago. You will 
need a repeat chest x-ray in ~4 weeks to make sure everything 
cleared out.

Your medications were changed as follows:
Stop taking diltiazem.
Take metoprolol tartrate 100 mg four times daily. 
You should otherwise continue to take your medications as 
indicated.
 
Followup Instructions:
___